* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 4.097e-02

.SUBCKT INDUCTOR_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(s) / DEN(s)
E1 out 0 LAPLACE {V(in,0)} = {(-9.549860e+35+-3.820431e+28*s+8.389173e+19*s**2+3.331173e+12*s**3+3.974303e-01*s**4)/(-8.122627e+35+-1.971644e+25*s+7.087038e+19*s**2+3.328670e+07*s**3+1.000000e+00*s**4)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS INDUCTOR_LAPLACE

